US08106215B2
A.6.1 Synthesis of (1S,2S,5R)-2-(3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione
To a cold solution of triphenylphosphine (1.8 g) in dry THF (90 mL) was added dropwise DEAD 40% in toluene (3.15 mL). Then was added successively phthalimide (1.01 g) and a solution of (3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-yl)-methanol (WO03/062265) (1.83 g) in dry THF (10 mL). The reaction mixture was stirred at RT overnight, diluted with EA, washed with water. The organic phase was washed with sat. NaHCO3 solution, dried (MgSO4), filtered and concentrated to yield a crude oil. FC (n-heptane/EA: 7/3 to 1/1) gave 1.73 g (64%) of the title compound as a white solid. LC-MS: tR=0.87 min; [M+H]+=397.47.

reactant | triphenylphosphine | 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | phthalimide | 1.01 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | (3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-yl)-methanol | 1.83 g | C(C1=CC=CC=C1)N1C(C2CC(CC2C1)(F)F)CO | C15H19F2NO
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | toluene | 3.15 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
solvent | n-heptane EA | CCCCCCC.CC(OCC)=O
product | (1S,2S,5R)-2-(3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione | 1.73 g, 64% | C(C1=CC=CC=C1)N1[C@@H]([C@H]2CC(C[C@H]2C1)(F)F)CN1C(C2=CC=CC=C2C1=O)=O | C23H22F2N2O2
